US06680313B2
b) 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate
Acetic acid (0.207 ml) and 1.21 ml of a 1 M tetra-n-butylammonium fluoride/THF solution were added to a solution of 265 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-(2-t-butyldimethylsilyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 5 ml of THF. The mixture was stirred at room temperature for 6 hr. Brine was added to the reaction solution, and a saturated sodium hydrogencarbonate solution was added thereto. The mixture was adjusted to pH 8.2, and was extracted with ethyl acetate twice. The organic layers were combined, were washed with brine, and were dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to prepare 208 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | Acetic acid | 0.207 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | 4-nitrobenzyl (1S,5R,6S)-2-[7-(2-t-butyldimethylsilyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 265 mg | [Si](C)(C)(C(C)(C)C)OCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C30H38N4O7S2Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SCCO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O7S2
